US09427428B2
(2S,3S)-2-(methoxycarbonylamino)-3-methylpentanoic acid was synthesized similar to N-methoxycarbonyl-L-Valine, using L-isoleucine instead of L-Valine.

reactant | N-methoxycarbonyl-L-Valine | COC(=O)N[C@@H](C(C)C)C(=O)O | C7H13NO4
reactant | L-isoleucine | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
product | (2S,3S)-2-(methoxycarbonylamino)-3-methylpentanoic acid | COC(=O)N[C@H](C(=O)O)[C@H](CC)C | C8H15NO4
